US09193716B2
Step D: 2-Amino-2-(6-chloro-5-(5-(4-propylphenyl)-1,2,4-oxadiazol-3-yl)benzofuran-2-yl)propane-1,3-diol
When tert-butyl 5-(5-(5-(3-chloro-4-propoxyphenyl)-1,2,4-oxadiazol-3-yl)benzofuran-2-yl)-2,2-dimethyl-1,3-dioxan-5-ylcarbamate was replaced with the tert-butyl 5-(6-chloro-5-(5-(4-propylphenyl)-1,2,4-oxadiazol-3-yl)benzofuran-2-yl)-2,2-dimethyl-1,3-dioxan-5-ylcarbamate (obtained as crude via a process as described in Example 36, Step D) the similar procedure as in Example 36, Step E gave the title compound (0.006 g, 40%) as white solid. 1H NMR (CD3OD) 8.12 (d, 2H, J=8.28 Hz); 8.12 (s, 1H); 7.75 (s, 1H); 7.43 (d, 2H, J=8.31 Hz); 6.9 (s, 1H); 3.88 (d, 2H, J=10.9 Hz); 3.78 (d, 1H, J=10.9 Hz); 2.7 (t, 2H, J=7.41 Hz); 1.76-1.64 (m, 2H); 0.97 (t, 3H, J=7.32 Hz).

reactant | tert-butyl 5-(5-(5-(3-chloro-4-propoxyphenyl)-1,2,4-oxadiazol-3-yl)benzofuran-2-yl)-2,2-dimethyl-1,3-dioxan-5-ylcarbamate | ClC=1C=C(C=CC1OCCC)C1=NC(=NO1)C=1C=CC2=C(C=C(O2)C2(COC(OC2)(C)C)NC(OC(C)(C)C)=O)C1 | C30H34ClN3O7
reactant | tert-butyl 5-(6-chloro-5-(5-(4-propylphenyl)-1,2,4-oxadiazol-3-yl)benzofuran-2-yl)-2,2-dimethyl-1,3-dioxan-5-ylcarbamate | ClC1=CC2=C(C=C(O2)C2(COC(OC2)(C)C)NC(OC(C)(C)C)=O)C=C1C1=NOC(=N1)C1=CC=C(C=C1)CCC | C30H34ClN3O6
product | 2-Amino-2-(6-chloro-5-(5-(4-propylphenyl)-1,2,4-oxadiazol-3-yl)benzofuran-2-yl)propane-1,3-diol | 0.006 g, 40% | NC(CO)(CO)C=1OC2=C(C1)C=C(C(=C2)Cl)C2=NOC(=N2)C2=CC=C(C=C2)CCC | C22H22ClN3O4
